US04064151
Into a 250 ml, three-necked flask fitted with a reflux condenser, gas inlet tube and magnetic stirrer and kept under a positive pressure of any dry nitrogen, there was charged 100 ml of dry tetrahydrofuran, 1.4g (0.01 mol) of tyramine and 5.0 ml of triethylamine. 3.0 ml of trimethylchlorosilane was then added at ambient temperature, dropwise and with stirring over a period of 30 minutes. Carbon dioxide was thereafer slowly bubbled into the reaction mixture, via a syringe needle for four hours while the mixture was allowed to reflux for the same period. Introduction of carbon dioxide was then terminated, and 1.5 ml of silicon tetrachloride was added slowly using a syringe. After 30 minutes of additional heating, the reaction mixture was allowed to cool, and triethylamine hydrochloride was removed by filtration. The solvent was then removed at 35° C in vacuo (12 torr), and the resulting oil distilled at 88°-90° C. (0.05 torr) to give a 2-(4'-trimethylsiloxyphenyl)ethyl isocyanate as a colorless liquid.

reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tyramine | 0.01 mol, 1.4g | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | trimethylchlorosilane | 3.0 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | triethylamine | 5.0 ml | C(C)N(CC)CC | C6H15N
product | 2-(4'-trimethylsiloxyphenyl)ethyl isocyanate | C[Si](OC1=CC=C(C=C1)CCN=C=O)(C)C | C12H17NO2Si
